US06653314B2
A solution of 3′-fluoro-4′-methoxyacetophenone (10 g; 59 mmol) and m-chloroperbenzoic acid (50% purity; 30 g; 89 mmol) in CH2Cl2 (300 mL) was stirred at RT overnight. The solution was washed with saturated aqueous Na2CO3, then filtered through a pad of SiO2 (CH2Cl2 as eluent) and finally chromatographed (SiO2; hex:EtOAc 4:1) to give the crude product (3′-fluoro-4′-methoxy phenyl acetate; 63 g). A solution of this crude material and LiOH.H2O (5 g; 120 mmol) in MeOH:H2O (100 mL of a 9:1 mixture) was stirred at RT overnight. Volatiles were removed in vacuo, and the residue was partitioned between excess aqueous 1 M HCl and EtOAc (aqueous layer pH˜3). The aqueous phase was extracted with EtOAc (2×). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give 3-fluoro-4-methoxy phenol (6.1 g; 72%) as an oil.

reactant | 3′-fluoro-4′-methoxyacetophenone | 59 mmol, 10 g | FC=1C=C(C=CC1OC)C(C)=O | C9H9FO2
reactant | m-chloroperbenzoic acid | 89 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | LiOH.H2O | 120 mmol, 5 g | O[Li].O
reactant | H2O | O | H2O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 3-fluoro-4-methoxy phenol | 6.1 g, 72% | FC=1C=C(C=CC1OC)O | C7H7FO2
